US07645755B2
The title compound was then prepared according to the Suzuki coupling procedure of Example 35, step (b) using 4-aminophenylboronic acid (219 mg, 1.00 mmol) and cis/trans-2,6-dimethyl-4-trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (as prepared above, 321 mg, 1.00 mmol). Silica gel chromatography (10-20% EtOAc/hexanes) afforded 4-(4-amino-phenyl)-2,6-dimethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (172 mg, 57%): Mass spectrum (ESI, m/z): Calcd. for C18H26N2O2, 303.2 (M+H) found 303.1.

reactant | 4-aminophenylboronic acid | 1.00 mmol, 219 mg | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | trans-2,6-dimethyl-4-trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.00 mmol, 321 mg | C(C)(C)(C)OC(=O)N1[C@H](CC(=C[C@@H]1C)OS(=O)(=O)C(F)(F)F)C | C13H20F3NO5S
product | 4-(4-amino-phenyl)-2,6-dimethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 172 mg, 57% | C(C)(C)(C)OC(=O)N1C(CC(=CC1C)C1=CC=C(C=C1)N)C | C18H26N2O2
